US07713994B2
Following the acetylation and desilylation procedure employed for the preparation of N-[2-hydroxy-4-({[(Z)-(6-iodo-1,3-dioxo-2,3-dihydroisoquinolin-4(1H)-ylidene)methyl]amino}methyl)phenyl]benzamide, (4Z)-4-[({4-amino-3-[(triisopropylsilyl)oxy]benzyl}amino)methylene]-6-bromoisoquinoline-1,3(2H,4H)-dione (60 mg, 0.11 mmol) is reacted with dichloroacetyl chloride (110 μL, 1.1 mmol). Following desilylation and precipitation, N-[4-({[(Z)-(6-bromo-1,3-dioxo-2,3-dihydroisoquinolin-4(1H)-ylidene)methyl]amino}methyl)-2-hydroxyphenyl]-2,2-dichloroacetamide is obtained 8.8 mg, 16%).

reactant | N-[2-hydroxy-4-({[(Z)-(6-iodo-1,3-dioxo-2,3-dihydroisoquinolin-4(1H)-ylidene)methyl]amino}methyl)phenyl]benzamide | OC1=C(C=CC(=C1)CN\C=C\1/C(NC(C2=CC=C(C=C12)I)=O)=O)NC(C1=CC=CC=C1)=O | C24H18IN3O4
reactant | (4Z)-4-[({4-amino-3-[(triisopropylsilyl)oxy]benzyl}amino)methylene]-6-bromoisoquinoline-1,3(2H,4H)-dione | 0.11 mmol, 60 mg | NC1=C(C=C(CN\C=C\2/C(NC(C3=CC=C(C=C23)Br)=O)=O)C=C1)O[Si](C(C)C)(C(C)C)C(C)C | C26H34BrN3O3Si
reactant | dichloroacetyl chloride | 1.1 mmol, 110 μL | ClC(C(=O)Cl)Cl | C2HCl3O
product | N-[4-({[(Z)-(6-bromo-1,3-dioxo-2,3-dihydroisoquinolin-4(1H)-ylidene)methyl]amino}methyl)-2-hydroxyphenyl]-2,2-dichloroacetamide | BrC=1C=C2/C(/C(NC(C2=CC1)=O)=O)=C/NCC1=CC(=C(C=C1)NC(C(Cl)Cl)=O)O | C19H14BrCl2N3O4
